US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-isopropyl-3-methyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 18-4 and using 1-isopropyl-3-methyl-1H-pyrazole-5-carboxylic acid (218 mg, 1.29 mmol), tetrahydrofuran (7 mL), oxalyl chloride (169 μL, 1.94 mmol), N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (200 mg, 0.646 mmol), N,N-dimethylformamide (1 drop) and N,N-dimethylacetamide (3 mL) as starting materials, the title compound (264 mg, 89%) was obtained as a white solid.

reactant | 1-isopropyl-3-methyl-1H-pyrazole-5-carboxylic acid | 1.29 mmol, 218 mg | C(C)(C)N1N=C(C=C1C(=O)O)C | C8H12N2O2
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 1.94 mmol, 169 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.646 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-isopropyl-3-methyl-1H-pyrazole-5-carboxamide | 264 mg, 89% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=CC(=NN2C(C)C)C)=N1 | C24H25N7O3
